US07115741B2
4-(2-Carbamoyl-6-ethyl-thieno[2,3-d]pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester
4-(4-tert-Butoxycarbonyl-piperazin-1-yl)-6-ethyl-thieno[2,3-d]pyrimidine-2-carboxylic acid (102.3 mg) was dissolved in tetrahydrofuran (0.50 mL) and 1,1′-carbonyl-diimidazole (42.3 mg) was added. The reaction was stirred at room temperature for 30 minutes and ammonia (0.5 M in dioxane, 1.57 mL) was added. The reaction was stirred at room temperature for 8 days and concentrated to dryness. The residue was purified on silica gel (0% to 10% ethyl acetate/hexane over 30 minutes) giving the desired product. Yield=47%, ES-MS: (M+H)+ 392.

reactant | 4-(4-tert-Butoxycarbonyl-piperazin-1-yl)-6-ethyl-thieno[2,3-d]pyrimidine-2-carboxylic acid | 102.3 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C2=C(N=C(N1)C(=O)O)SC(=C2)CC | C18H24N4O4S
reactant | 1,1′-carbonyl-diimidazole | 42.3 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 0.5 M, 1.57 mL | N | H3N
solvent | tetrahydrofuran | 0.50 mL | O1CCCC1 | C4H8O
product | 4-(2-Carbamoyl-6-ethyl-thieno[2,3-d]pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | Yield=47% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C2=C(N=C(N1)C(N)=O)SC(=C2)CC | C18H25N5O3S
